US05641883
(ii) Preparation of 3-amino-8-t-butyl-1-oxaspiro(4,5)-decane
8-t-Butyl-1-oxaspiro(4,5)-decane-3-one oxime (17.5 g, 76 mmol) in tetrahydrofuran (50 ml) was added to a solution of lithium- aluminium hydride (4.5 g, 0.125 mol) in tetrahydrofuran (100 ml). The reaction mixture was refluxed for 4 hours, cooled end excess LAH was hydrolysed by addition of saturated aqueous sodium sulfate solids were filtered off washed with tetrahydrofuran and the solvent was stripped off in vacuo. Kugelrohr distillation of the resulting pale yellow oil (16.9 g) gave a colourless oil (12.3 g). Bp.: 125° C./0.02 mbar, nD22 :1.4840.

reactant | 8-t-Butyl-1-oxaspiro(4,5)-decane-3-one oxime | 76 mmol, 17.5 g | C(C)(C)(C)C1CCC2(CC(CO2)=NO)CC1 | C13H23NO2
reactant | lithium- aluminium hydride | 0.125 mol, 4.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-amino-8-t-butyl-1-oxaspiro(4,5)-decane | 12.3 g | NC1COC2(C1)CCC(CC2)C(C)(C)C | C13H25NO
